US04166183
(A) 1,2,3,4,4a,5,6,7,10,10b-Decahydro-4-methylbenzo[f]quinoline
1-Methyl-1,2,3,4,7,8-hexahydrobenzo[f]-quinoline is dissolved in 200 ml of ether and added to 1.5 l of liquid ammonia. Lithium ribbon (16 g) is added portionwise over a period of 15 minutes. After stirring a few minutes, absolute ethanol is added dropwise until the color is discharged (500 ml added over a period of 2.5 hours). More ether is added and the ammonia is boiled off. While cooling in an ice bath, the mixture is diluted to about 1500 ml with water. The layers are separated and the aqueous layer is reextracted with ether. The combined organic layers are dried over potassium carbonate, filtered and the solvent is removed in vacuo leaving the title compound as a crude product.

reactant | 1-Methyl-1,2,3,4,7,8-hexahydrobenzo[f]-quinoline | CC1CCNC=2C=CC3=C(C12)C=CCC3 | C14H17N
reactant | ammonia | N | H3N
reactant | Lithium | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 1,2,3,4,4a,5,6,7,10,10b-Decahydro-4-methylbenzo[f]quinoline | CN1CCCC2C3=C(CCC12)CC=CC3 | C14H21N
